US06069149
3.04 g (11.33 mmol) of methyl 4-(α-hydroxybenzyl)cinnamate was dissolved in 35 ml of N,N-dimethylformamide, thereafter 0.45 g (11.33 mmol) of 60% sodium hydride was added thereto, and the mixture was stirred overnight at room temperature. 2.44 g (22.66 mmol) of 2-dimethylaminoethyl chloride was then added thereto. The resulting mixture was heated at 80° C. and stirred for 5 hours. After cooling, the reaction mixture was poured into water, the obtained mixture was extracted twice with ethyl acetate, and the extract was washed with brine. The organic phase was dried (MgSO4) and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (chloroform:methanol =50:1 (v/v)) followed by alumina column chromatography (n-hexane:ethyl acetate=5:1 (v/v)) to obtain 0.19 g (0.560 mmol) of methyl 4-[α-(2-dimethylaminoethoxy)benzyl]cinnamate as a pale yellow oily substance. Its spectroscopic data are as follows:

reactant | methyl 4-(α-hydroxybenzyl)cinnamate | 11.33 mmol, 3.04 g | OC(C1=CC=CC=C1)C1=CC=C(C=CC(=O)OC)C=C1 | C17H16O3
reactant | sodium hydride | 11.33 mmol, 0.45 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 22.66 mmol, 2.44 g | CN(CCCl)C | C4H10ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | methyl 4-[α-(2-dimethylaminoethoxy)benzyl]cinnamate | 0.560 mmol, 0.19 g | CN(CCOC(C1=CC=CC=C1)C1=CC=C(C=CC(=O)OC)C=C1)C | C21H25NO3
